Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
azithromycin
 
Attending: ___
 
Chief Complaint:
Urinary incontinence 
 
Major Surgical or Invasive Procedure:
Total vaginal hysterectomy, cystoscopy, perineorrhaphy
 
History of Present Illness:
___ P2 with a hsitory of uterine fibroids, worsening stress 
urinary incontinence, heavy menstrual bleeding and pelvic pain 
who was previosuly seen in this clinic for those symptoms and
declined intervention at that time. At the time, had a 13cm 
fibroid uterus on ultrasound. Now reports her pelvic pain, 
pressure, leaking and heavy bleeding have all worsened and she 
is
interested in definitive management. She is the sole caretaker 
for 2 school aged children and has minimal social supports here 
so requests the surgical approach with the shortest recovery
time. 
 
Past Medical History:
PAST MEDICAL HISTORY:
DYSPAREUNIA                                                     
FIBROID UTERUS                                                  
FOLLICULITIS                                                    
NUTRITION                                                       
SUI                                                             
THYROID NODULE                                                  
H/O GESTATIONAL DIABETES                                        

PAST SURGICAL HISTORY
UTERINE POLYPECTOMY      
BREAST BIOPSY

PAST OBSTETRICAL HISTORY
P2 SVD x2
 
Social History:
Country of Origin:  ___                                        
Marital status:     Married                                     
Children:           Yes: ___ 10, and ___ 9                    
Lives with:         ___ Children                  
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Male                                        
Domestic violence:  Denies                                      
Contraception:      None                                        
Tobacco use:        No                                          
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
 
Family History:
Relative  Status    Age Problem              Comments           
Other                   DIABETES MELLITUS    Sister, Brother,   
                                             Parents            

Mother    ___      STROKE                                  
                        DIABETES MELLITUS                       
                        CORONARY ARTERY                         
                        DISEASE                                 
                        MYOCARDIAL                              
                        INFARCTION                              

Father    ___      STROKE                                  
                        MYOCARDIAL                              
                        INFARCTION                              
                        DIABETES MELLITUS
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
Ext: no TTP
 
Pertinent Results:
___ 08:10AM BLOOD WBC-6.4 RBC-3.73* Hgb-11.1* Hct-32.6* 
MCV-87 MCH-29.8 MCHC-34.0 RDW-12.4 RDWSD-39.7 Plt ___
___ 08:10AM BLOOD Plt ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing total vaginal hysterectomy, cystoscopy, and 
perineorrhaphy. Please see the operative report for full 
details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid.
On post-operative day 1, her urine output was adequate so her 
foley was removed with a urogyn voiding trial and she voided 
spontaneously. Her diet was advanced without difficulty and she 
was transitioned to PO oxycodone, ibuprofen, and acetaminophen.

*) Anemia: Patient's pre-operative hct was 41. Intra-operatively 
she had an EBL of 500 cc. Post-operatively her vitals were 
stable and urine output appropriate. Hct on post-operative day 
#1 was 32.6. Patient remained stable and asymptomatic at time of 
discharge and was sent home with once daily iron 
supplementation. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Vitamins
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H 
do not exceed 4000 mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1
2. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not drive while taking, use with stool softener 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
take if using oxycodone for pain  
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*2
5. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
Daily Disp #*40 Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___